US05200422
1,3-dihydro-1-(5-chloro-3-bromo-2-hydroxyphenyl)-5-trifluoromethyl-6-nitro-2H-benzimidazol-2-one
To a slurry of 1,3-dihydro-1-(5-chloro-3-bromo-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one (1 g, 2.5 mmol) in glacial acetic acid (5 ml) was under stirring on an ice bath added acetic anhydride (2.5 ml) and two drops of concentrated sulfuric acid. When the starting material had gone into solution, an ice cold solution of potassium nitrate (0.3 g, 3 mmol) in concentrated sulfuric acid (1 ml) was added, and the mixture was stirred for 15 minutes. The reaction mixture was poured into water, the crystalline product was collected by filtration and the acetate was hydrolysed by reflux in ethanol (50 ml) and 4M sodium hydroxide (5 ml) for one hour. The reaction mixture was acidified by addition of 4M hydrochloric acid and water was added until starting precipitation. The mixture was cooled and the crystals were collected by filtration yielding the title compound as slightly yellow crystals, M.p. 262°-264° C.

reactant | 1,3-dihydro-1-(5-chloro-3-bromo-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one | 2.5 mmol, 1 g | ClC=1C=C(C(=C(C1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)O)Br | C14H7BrClF3N2O2
reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium nitrate | 3 mmol, 0.3 g | [N+](=O)([O-])[O-].[K+]
reactant | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 1,3-dihydro-1-(5-chloro-3-bromo-2-hydroxyphenyl)-5-trifluoromethyl-6-nitro-2H-benzimidazol-2-one | ClC=1C=C(C(=C(C1)N1C(NC2=C1C=C(C(=C2)C(F)(F)F)[N+](=O)[O-])=O)O)Br | C14H6BrClF3N3O4
